US06432957B1
Synthesis of N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)glycine amide
N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine (3.40 g), N-(9-fluorenylmethoxycarbonyl)glycine (2.34 g), diisopropylethylamine (1.03 g) and 4-(dimethylamino)pyridine (961 mg) were dissolved in acetonitrile (40 mL), and to the solution HBTU (3.13 g) was added, and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, and the mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=1:1) to obtain the title compound.

reactant | N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine | 3.40 g | [Si](C)(C)(C(C)(C)C)OCCNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H36N2O4Si
reactant | N-(9-fluorenylmethoxycarbonyl)glycine | 2.34 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)O | C17H15NO4
reactant | diisopropylethylamine | 1.03 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 3.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | 4-(dimethylamino)pyridine | 961 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)glycine amide | [Si](C)(C)(C(C)(C)C)OCCN(C(CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C40H49N3O7Si
